US08071779B2
N-(Pyrrolidin-3-yl)isoquinolin-5-amine
Reaction of tert-butyl 3-oxopyrrolidine-1-carboxylate and isoquinolin-5-amine using the method of Example 3 followed by deprotection using the method of Example 4 afforded the title compound.

reactant | tert-butyl 3-oxopyrrolidine-1-carboxylate | O=C1CN(CC1)C(=O)OC(C)(C)C | C9H15NO3
reactant | isoquinolin-5-amine | C1=NC=CC=2C(=CC=CC12)N | C9H8N2
product | N-(Pyrrolidin-3-yl)isoquinolin-5-amine | N1CC(CC1)NC=1C=2C=CN=CC2C=CC1 | C13H15N3
